US05102667
Butenone (7.23 cc) is added to a solution of bis-(3-tolyl)acetaldehyde (20.4 g) in ethyl ether (110 cc) and then, after cooling to 0° C., a solution of potassium hydroxide (2 g) in ethanol (12.7 cc) is added dropwise. The reaction mixture is stirred for 2 hours at 0° C. and then for 16 hours at 25° C. and diluted with ethyl acetate (200 cc) and water (200 cc). The aqueous phase is washed with ethyl acetate (2×250 cc). The combined organic phases are washed with water (2×250 cc) and then with saturated sodium chloride solution (250 cc), dried over magnesium sulphate and concentrated under reduced pressure (2.7 kPa). The residue is chromatographed on silica gel (particle size 0.04-0.063 mm, column 5.4 cm in diameter and 40 cm high), eluting under a nitrogen pressure of 0.5 bar with a mixture of cyclohexane and ethyl acetate (85/15 by volume). 4,4 -bis-(3-Tolyl)-cyclohexenone (16.7 g) is obtained in the form of yellow oil.

reactant | Butenone | 7.23 cc | CC(C=C)=O | C4H6O
reactant | bis-(3-tolyl)acetaldehyde | 20.4 g | C1(=CC(=CC=C1)C(C=O)C=1C=C(C=CC1)C)C | C16H16O
reactant | potassium hydroxide | 2 g | [OH-].[K+]
solvent | ethyl ether | 110 cc | C(C)OCC | C4H10O
solvent | ethanol | 12.7 cc | C(C)O | C2H6O
solvent | ethyl acetate | 200 cc | C(C)(=O)OCC | C4H8O2
solvent | water | 200 cc | O | H2O
product | 4,4 -bis-(3-Tolyl)-cyclohexenone | 16.7 g | C1(=CC(=CC=C1)C1(C=CC(CC1)=O)C=1C=C(C=CC1)C)C | C20H20O
